US07345049B2
The mixture of methyl 3-dimethylaminomethyl-2-nitrobenzoate (0.72 g) and 6M hydrochloric acid was stirred at 100° C. overnight. After cooling the mixture to room temperature, the precipitated crystals were filtered out, washed with diethylether and dried under reduced pressure to obtain 3-dimethylaminomethyl-2-nitrobenzoic acid hydrochloride.

reactant | methyl 3-dimethylaminomethyl-2-nitrobenzoate | 0.72 g | CN(C)CC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C11H14N2O4
reactant | hydrochloric acid | 6M | Cl | ClH
product | 3-dimethylaminomethyl-2-nitrobenzoic acid hydrochloride | Cl.CN(C)CC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | InChI=1S/C10H12N2O4.ClH/c1-11(2)6-7-4-3-5-8(10(13)14)9(7)12(15)16;/h3-5H,6H2,1-2H3,(H,13,14);1H
